US06703391B2
5-Bromo-1,2,3,4-tetrahydro-8-nitroisoquinoline
Alternatively, a solution of 5-bromo-8-nitroisoquinoline (1.0 g) in glacial acetic acid (30 mL) was cooled to 0° C. and, before freezing, was treated with sodium cyanoborohydride (1.10 g). The reaction mixture was warmed slowly to room temperature under nitrogen. The reaction mixture was diluted with water and basified. Organic layer extracts were chromatographed on silica gel as before.

reactant | 5-bromo-8-nitroisoquinoline | 1.0 g | BrC1=C2C=CN=CC2=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2
reactant | sodium cyanoborohydride | 1.10 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-Bromo-1,2,3,4-tetrahydro-8-nitroisoquinoline | BrC1=C2CCNCC2=C(C=C1)[N+](=O)[O-] | C9H9BrN2O2
